US07897762B2
To a solution of above 2-(5-amino-1-phenyl-1H-pyrazol-3-yl)-2-methylpropan-1-ol (0.208 g, 0.85 mmol) in DMF (2.0 mL) was added imidazole (0.32 g, 4.7 mmol) and TBSCl (0.39 g, 2.6 mmol). The resulting mixture was stirred at RT for 5 h. Solvent was removed under reduced pressure. The residue was diluted with H2O (10 mL) and extracted with EtOAc (2×20 mL). The combined organic layers were dried (MgSO4) and concentrated. The crude product was purified by chromatography to afford 3-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-1-phenyl-1H-pyrazol-5-amine (0.125 g, 42% yield) as a light yellow oil. MS (ESI) m/z: 346.3 (M+H+).

reactant | 2-(5-amino-1-phenyl-1H-pyrazol-3-yl)-2-methylpropan-1-ol | 0.85 mmol, 0.208 g | NC1=CC(=NN1C1=CC=CC=C1)C(CO)(C)C | C13H17N3O
reactant | imidazole | 4.7 mmol, 0.32 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 2.6 mmol, 0.39 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-1-phenyl-1H-pyrazol-5-amine | 0.125 g, 42% yield | [Si](C)(C)(C(C)(C)C)OCC(C)(C)C1=NN(C(=C1)N)C1=CC=CC=C1 | C19H31N3OSi
